US08058285B2
Synthesis of 7-(4-[1,2-dihydroxyethyl]-phenyl)-4-ethoxy-9-methyl-2-piperazin-1-yl-thieno[2,3-d:4,5-d′]dipyrimidine
0.20 g (0.46 mmol) 4-ethoxy-9-methyl-2-piperazin-1-yl-7-(4-vinylphenyl)-thieno[2,3-d:4,5-d′]dipyrimidine and 0.16 g (1.39 mmol) N-methylmorpholine-N-oxide-monohydrate were dissolved in 50 ml acetone. Then, 0.3 ml (4% aqueous) OSO4 solution was added and stirring was carried out at room temperature for 24 h. Thereafter, 100 ml 1 M NaCO3 solution were added and extraction with dichloromethane was carried out. Following flash chromatographic purification (chloroform/methanol, 8.5:1.5) 100 mg (46%) of the title compound is obtained. ESI-MS [m/z]: 466, melting point: >300° C.

reactant | 4-ethoxy-9-methyl-2-piperazin-1-yl-7-(4-vinylphenyl)-thieno[2,3-d:4,5-d′]dipyrimidine | 0.46 mmol, 0.20 g | C(C)OC=1C2=C(N=C(N1)N1CCNCC1)C1=C(N=C(N=C1C)C1=CC=C(C=C1)C=C)S2 | C23H24N6OS
reactant | N-methylmorpholine-N-oxide-monohydrate | 1.39 mmol, 0.16 g | O.C[N+]1(CCOCC1)[O-]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 7-(4-[1,2-dihydroxyethyl]-phenyl)-4-ethoxy-9-methyl-2-piperazin-1-yl-thieno[2,3-d:4,5-d′]dipyrimidine | OC(CO)C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC1=C2N=C(N=C1OCC)N1CCNCC1)C | C23H26N6O3S
